US08202865B2
Step 2: {4-[5-(5-chloro-6-isobutoxypyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorophenoxy}acetic acid
Lithium bis(trimethylsilyl)amide (225 μl; 1 M; 0.22 mmol) was added to a solution of tert-butyl {4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorophenoxy}acetate (66.04 mg; 0.15 mmol) in 2-methyl-1-propanol (1.50 mL) and THF (2 mL). The resulting mixture was heated at 130° C. for 10 min in the microwave. A mixture of the desired product and the isopropyl ester was isolated. NaOH (5N solution; 5 eq; 0.15 mL) was added and the mixture was stirred at RT for 2 hours. The reaction mixture was diluted with EtOAc and washed with HCl 1N, brine and dried over MgSO4. After evaporation of the solvents, the title product was isolated as white solid (51 mg; 81%). 1H NMR (DMSO-d6, 300 MHz) δ 13.25 (br s, 1H), 8.91 (d, J=2 Hz, 1H), 8.57 (d, J=2 Hz, 1H), 7.90-7.86 (m, 2H), 7.32 (t, J=9 Hz, 1H), 4.91 (s, 2H), 4.27 (d, J=6 Hz, 2H), 2.12 (m, 1H), 1.02 (d, J=6 Hz, 6H). LC/MS (Method B): 420.3 (M−H)−. HPLC (Method A) Rt 5.29 min (Purity: 100%).

reactant | Lithium bis(trimethylsilyl)amide | 0.22 mmol, 1 M, 225 μl | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl {4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorophenoxy}acetate | 0.15 mmol, 66.04 mg | ClC=1C=C(C=NC1Cl)C1=NC(=NO1)C1=CC(=C(OCC(=O)OC(C)(C)C)C=C1)F | C19H16Cl2FN3O4
solvent | 2-methyl-1-propanol | 1.50 mL | CC(CO)C | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {4-[5-(5-chloro-6-isobutoxypyridin-3-yl)-1,2,4-oxadiazol-3-yl]-2-fluorophenoxy}acetic acid | ClC=1C=C(C=NC1OCC(C)C)C1=NC(=NO1)C1=CC(=C(OCC(=O)O)C=C1)F | C19H17ClFN3O5
